US08957093B2
Step 1: (S)-Ethyl 2′-((2,3-dimethyl-5-((1-(4-nitrophenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-4-carboxylate
The title compound was prepared following the same protocol as described in Step 8, Example 1, using the 1-((4′-(ethoxycarbonyl)-[1,1′-biphenyl]-2-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid instead of the 1-((2′-(tert-Butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid and the (S)-1-(4-nitrophenyl)ethanamine instead of the (S)-1-(4-bromophenyl)ethanamine.

reactant | 1-((4′-(ethoxycarbonyl)-[1,1′-biphenyl]-2-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C27H25NO4
reactant | (S)-1-(4-nitrophenyl)ethanamine | [N+](=O)([O-])C1=CC=C(C=C1)[C@H](C)N | C8H10N2O2
product | (S)-Ethyl 2′-((2,3-dimethyl-5-((1-(4-nitrophenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-4-carboxylate | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C)C1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)OCC | C35H33N3O5
